US06919365B2
3-(2-Naphthylsulfonyl)-5,5-diphenylimidazolidine-2,4-dione (Compound 11)
5,5-Diphenylimidazolidine-2,4-dione (0.5 g) was dissolved in tetrahydrofuran (5 mL), and sodium hydride (60%, in oil) (87 mg) was added at 0° C. under ice-cooling. After stirred for 30 minutes, 2-naphthalenesulfonyl chloride (471 mg) was added at 0° C., and the mixture was stirred at room temperature overnight. After water was added carefully, ethyl acetate (100 mL) was added, and the layers were separated. The resulting organic layer was washed with a saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was distilled off. Further purification by silica gel chromatography (hexane:ethyl acetate=3:1 to 2:1) afforded 320 mg of white powder.

reactant | 5,5-Diphenylimidazolidine-2,4-dione | 0.5 g | C1(=CC=CC=C1)C1(C(NC(N1)=O)=O)C1=CC=CC=C1 | C15H12N2O2
reactant | sodium hydride | 87 mg | [H-].[Na+]
reactant | 2-naphthalenesulfonyl chloride | 471 mg | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-(2-Naphthylsulfonyl)-5,5-diphenylimidazolidine-2,4-dione | 320 mg | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1C(NC(C1=O)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C25H18N2O4S
